US06103322
Treatment of N-2-methylallyl-N-ethylamine with 2,4-dinitrofluorobenzene as described in Example 1 gave N-2-methylallyl-N-ethyl-2,4-dinitrobenzeneamine as a red oil (13.0 g).

reactant | N-2-methylallyl-N-ethylamine | CC(CNCC)=C | C6H13N
reactant | 2,4-dinitrofluorobenzene | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
product | N-2-methylallyl-N-ethyl-2,4-dinitrobenzeneamine | 13.0 g | CC(CN(C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])CC)=C | C12H15N3O4
